US07981874B2
[2-(4-Hydroxymethyl-benzoylamino)-4-thiophen-2-yl-phenyl]-carbamic acid tert-butyl ester.
A solution of methyl 4-[({2-[(tert-butoxycarbonyl)amino]-5-thien-2-ylphenyl}amino)carbonyl]benzoate (743 mg, 1.64 mmol) and anhydrous THF (0.10 M) was cooled to 0° C. and a solution of LiBH4 (5.49 mL, 11.0 mmol, 2M in THF) was added dropwise. The resulting solution was allowed to slowly warm to ambient temperature over 14 hours. The reaction was then cooled to 0° C. and quenched with saturated aqueous ammonium cloride. The mixture was diluted with water and extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by MPLC (SiO2, 10-80% EtOAc in hexanes) to afford a white glass: 1H-NMR (600 mHz, DMSO-d6) δ 9.87 (s, 1H), 8.73 (s, 1H), 7.92 (d, J=9.2 Hz, 2H), 7.81 (d, J=2.1 Hz, 1H), 7.58-7.42 (m, 5H), 7.11 (d, J=3.5 Hz, 1H), 7.10 (d, J=3.5 Hz, 1H), 5.34 (t, J=5.9 Hz, 1H), 4.57 (d, J=5.6 Hz, 2H), 1.43 (s, 9H).

reactant | methyl 4-[({2-[(tert-butoxycarbonyl)amino]-5-thien-2-ylphenyl}amino)carbonyl]benzoate | 1.64 mmol, 743 mg | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C(=O)OC)C=C1 | C24H24N2O5S
reactant | LiBH4 | 11.0 mmol, 2M, 5.49 mL | [Li+].[BH4-]
solvent | THF | 0.10 M | C1CCOC1 | C4H8O
product | [2-(4-Hydroxymethyl-benzoylamino)-4-thiophen-2-yl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C=1SC=CC1)NC(C1=CC=C(C=C1)CO)=O)=O | C23H24N2O4S
